US04291042
2-[1-(2-[Indol-3-yl]ethyl)piperid-4-yl]-1,3-(2H,4H)-isoquinolinedione
4-Amino-1-[2-(indol-3-yl)ethyl]piperidine (2.43 g, 0.01 mol) and homophthalic acid (1.80 g, 0.01 mol) were heated at 160° (external temperature) for 3 hours then cooled to room temperature, giving a glass. This was dissolved in refluxing methanol and a small quantity of ethanol then cooled at 5° C. overnight. The title compound was deposited as a tacky solid which was collected and dried (0.82 g, 21.2%). The hydrochloride was formed by treatment of the base overnight with ethereal HCl, m.p. 186°-188°.

reactant | 4-Amino-1-[2-(indol-3-yl)ethyl]piperidine | 0.01 mol, 2.43 g | NC1CCN(CC1)CCC1=CNC2=CC=CC=C12 | C15H21N3
reactant | homophthalic acid | 0.01 mol, 1.80 g | C(CC=1C(C(=O)O)=CC=CC1)(=O)O | C9H8O4
reactant | methanol | CO | CH4O
solvent | ethanol | C(C)O | C2H6O
product | 2-[1-(2-[Indol-3-yl]ethyl)piperid-4-yl]-1,3-(2H,4H)-isoquinolinedione | N1C=C(C2=CC=CC=C12)CCN1CCC(CC1)N1C(C2=CC=CC=C2CC1=O)=O | C24H25N3O2
